US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)-4-fluorobenzamide (3.65 g, 11.3 mmol) in THF (50 mL) was treated with triphosgene (3.69 g, 12.4 mmol) at room temperature. The solution was stirred at room temperature for 2 h, then was treated slowly with saturated aqueous NaHCO3 and stirred until no more gas evolution was observed. The resulting mixture was extracted twice with EtOAc. The combined organic phases were washed twice with water, then with brine, dried and concentrated to give 3-(3-bromo-2-methylphenyl)-7-fluoroquinazoline-2,4(1H,3H) -dione (4.20 g), used without further purification. Mass spectrum m/z 349, 351 (M+H)+.

reactant | 2-amino-N-(3-bromo-2-methylphenyl)-4-fluorobenzamide | 11.3 mmol, 3.65 g | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC(=C1)F | C14H12BrFN2O
reactant | triphosgene | 12.4 mmol, 3.69 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-7-fluoroquinazoline-2,4(1H,3H) -dione | 4.20 g | BrC=1C(=C(C=CC1)N1C(NC2=CC(=CC=C2C1=O)F)=O)C | C15H10BrFN2O2
